US06720351B2
Preferred alternative B. A mixture of ethyl 1-methyl-5-nitro-1H-indole-2-carboxylate (150.0 g), from step (a) or commercial sources, and 10% palladium on carbon catalyst (50% wet) (15.0 g) in ethyl acetate (1800 mL) was hydrogenated at 3 bar at 30° C. for 8 hours. The mixture was then filtered and the solids washed with ethyl acetate (300 mL). The combined filtrate and washings were partially azeotropically dried at reflux and then concentrated to 800 mL to give a solution of product ethyl 5-amino-1-methyl-1H-indole-2-carboxylate in ethyl acetate.

reactant | ethyl 1-methyl-5-nitro-1H-indole-2-carboxylate | 150.0 g | CN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C(=O)OCC | C12H12N2O4
catalyst | palladium on carbon | 15.0 g | [Pd] | Pd
solvent | ethyl acetate | 1800 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 5-amino-1-methyl-1H-indole-2-carboxylate | NC=1C=C2C=C(N(C2=CC1)C)C(=O)OCC | C12H14N2O2
